US06063789
b) 4-(3-Azidopropyloxy)benzaldehyde
A mixture of 4-(3-bromopropyloxy)benzaldehyde (3.5 g, 14.5 mmol) and sodium azide (29 mmol, 1.9 g) in DMSO (70 ml) was stirred for 16 h, poured into water (100 ml) and extracted twice with diethyl ether. The extracts were washed with water (50 ml) and saturated aqueous sodium chloride, dried over sodium sulphate and evaporated to give a colourless oil (2.75 g). M+ 205; 360 MHz 1H n.m.r (CDCl3) 7.84 (2H, d, J 11 Hz), 7.02 (2H, d, J 11 Hz), 4.14 (2H, t, J 5.9 Hz), 3.55 (2 H, t, J 6.5 Hz), 2.09 (2 H, app. pentet, J 6.2 Hz).

reactant | 4-(3-bromopropyloxy)benzaldehyde | 14.5 mmol, 3.5 g | BrCCCOC1=CC=C(C=O)C=C1 | C10H11BrO2
reactant | sodium azide | 29 mmol, 1.9 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | DMSO | 70 ml | CS(=O)C | C2H6OS
product | 4-(3-Azidopropyloxy)benzaldehyde | 2.75 g | N(=[N+]=[N-])CCCOC1=CC=C(C=O)C=C1 | C10H11N3O2
